US06677368B2
To the suspension of 4-(3,5-difluoro-phenyl)-1H-indole (13.52 g, 59 mmol) in t-BuOH:ethanol:acetic acid (375 mL:225 mL:115 mL) was added pyridinium tribromide (57 g, 177 mmol) portionwise. The mixture was stirred at room temperature for 3 hours, and then to the mixture was added with acetic acid (286 mL). Zinc dust (19.25 g, 295 mmol) was added to the reaction mixture portionwise. After stirring for one hour, any unreacted zinc was filtered off and most of the solvent was removed under reduced pressure. The residue was diluted with ethyl acetate, washed with water (5×), neutralized with 1N HCl, washed with sat. NaHCO3, brine, dried over Na2SO4, concentrated and triturated with ether to give 9.88 g (68%) of 4-(3,5-difluoro-phenyl)-1,3-dihydro-indol-2-one.

reactant | 4-(3,5-difluoro-phenyl)-1H-indole | 59 mmol, 13.52 g | FC=1C=C(C=C(C1)F)C1=C2C=CNC2=CC=C1 | C14H9F2N
reactant | ethanol | C(C)O | C2H6O
reactant | acetic acid | 375 mL | C(C)(=O)O | C2H4O2
reactant | pyridinium tribromide | 177 mmol, 57 g | [Br-].[Br-].[Br-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | acetic acid | 286 mL | C(C)(=O)O | C2H4O2
solvent | t-BuOH | CC(C)(C)O | C4H10O
catalyst | Zinc | 295 mmol, 19.25 g | [Zn] | Zn
product | 4-(3,5-difluoro-phenyl)-1,3-dihydro-indol-2-one | 9.88 g, 68% | FC=1C=C(C=C(C1)F)C1=C2CC(NC2=CC=C1)=O | C14H9F2NO
